US08530495B2
At 50° C., Nalmefene Hydrochloride was added as seeding. The seed did not dissolve and Nalmefene started to crystallize. When the cooling ramp was terminated the suspension was maintained under stirring at 20° C. for 2.5 days. The solid was filtered and washed with acetone (50 ml). The wet product was dried overnight under vacuum at 40° C. yielding 13.2 g of Nalmefene hydrochloride dihydrate (chemical purity 99.74%, water content 8.54% w/w as measured by Karl Fisher titration).

reactant | Nalmefene Hydrochloride | C=C1CC[C@]2([C@H]3CC=4C=CC(=C5C4[C@]2([C@H]1O5)CCN3CC6CC6)O)O.Cl
reactant | Nalmefene | C=C1CC[C@]2([C@H]3CC=4C=CC(=C5C4[C@]2([C@H]1O5)CCN3CC6CC6)O)O | C21H25NO3
product | Nalmefene hydrochloride dihydrate | 13.2 g | C=C1CC[C@]2([C@H]3CC4=C5[C@]2([C@H]1OC5=C(C=C4)O)CCN3CC6CC6)O.O.O.Cl | InChI=1S/C21H25NO3.ClH.2H2O/c1-12-6-7-21(24)16-10-14-4-5-15(23)18-17(14)20(21,19(12)25-18)8-9-22(16)11-13-2-3-13;;;/h4-5,13,16,19,23-24H,1-3,6-11H2;1H;2*1H2/t16-,19+,20+,21-;;;/m1.../s1
